US09290791B2
6-Chloropurine riboside (100 mg, 0.35 mmol) was dissolved in 1.75 mL of trimethyl phosphate. Phosphoryl chloride (160 mg, 1.05 mmol) was dissolved in a mixture of 0.17 mL of trimethylphosphate and 6.3 μL of water. Both solutions were cooled to 0° C., mixed and stirred on a magnetic stirrer at 0° C. After 6 hours, ice was added to quench the reaction and the pH was adjusted to 7 by addition of ammonium hydroxide solution. The crude product was then concentrated and purified on a C18 reverse phase column using water as the mobile phase. The fractions containing desired product were combined and lyophilized to dryness to afford 6-chloropurine riboside 5′-phosphate (96 mg, 0.26 mmol, 75%) as a white solid. 1H NMR (D2O, 500 MHz) δ (ppm): 4.20 (m, 2H), 4.42 (m, 1H), 4.55 (t, J=4.6 Hz, 1H), 4.84 (m, 1H), 6.28 (d, J=5.1 Hz, 1H), 8.79 (s, 1H), 8.86 (s, 1H).

reactant | 6-Chloropurine riboside | 0.35 mmol, 100 mg | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | Phosphoryl chloride | 1.05 mmol, 160 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | trimethyl phosphate | 1.75 mL | P(=O)(OC)(OC)OC | C3H9O4P
reactant | trimethylphosphate | 0.17 mL | COP(=O)(OC)OC | C3H9O4P
solvent | water | 6.3 μL | O | H2O
product | 6-chloropurine riboside 5′-phosphate | 0.26 mmol, 96 mg, 75% | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)O)O)O | C10H12ClN4O7P
